US03998834
A mixture of 3.54 parts of α-methylphenethyl alcohol, methanesulfonate ester, 4.1 parts of N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide, 3.97 parts of sodium carbonate and 160 parts of 4-methyl-2-pentanone is stirred and refluxed for 24 hours with water-separator. After cooling, water is added and the product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of benzene and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanediolate salt in 2-propanol. The salt is filtered off, washed with 2-propanol and dried, yielding N-[4-(methoxymethyl)-1-(1-methyl-2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate; mp. 196.8° C.

reactant | α-methylphenethyl alcohol | CC(CC1=CC=CC=C1)O | C9H12O
reactant | N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C16H24N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | N-[4-(methoxymethyl)-1-(1-methyl-2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate | C(C(=O)O)(=O)O.COCC1(CCN(CC1)C(CC1=CC=CC=C1)C)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C25H34N2O2.C2H2O4/c1-4-24(28)27(23-13-9-6-10-14-23)25(20-29-3)15-17-26(18-16-25)21(2)19-22-11-7-5-8-12-22;3-1(4)2(5)6/h5-14,21H,4,15-20H2,1-3H3;(H,3,4)(H,5,6)
